Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Worsening nausea, vomiting, pruritis x 10 days
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 He states he was first diagnosed with type 1 diabetes at the 
age of ___, and that during the last decade or so he has been 
especially compliant with his medications.  He has had a 
radiocephalic AV fistula in his R arm for ___ years. He is high on 
the kidney/pancreatic transplant list, and was in fact scheduled 
for transplant in ___, but the procedure was aborted due 
to poor donor organ quality; he continues to be followed by the 
transplant team due to his high place on the transplant list. 

Approximately 10 days prior to admission, Mr. ___ found 
himself increasingly tired; he also noticed a worsening 
insomnia, as well as a constant dull frontal headache. 
Approximately 5 days prior to admission, he began feeling 
increasingly nauseated; these episodes of nausea were associated 
with sweating and chills, but not fevers, and he reports feeling 
better after vomiting.  He vomited often, and he notes that the 
vomitus was non-bilious, but did contain blood clots. He also 
notes worsening edema in his lower legs, and an increased 
tendency to stumble, as well as dyspnea on exertion (walking 
long distances).  He presented to ___ for initiation of 
hemodialysis.

He denies recent history of abdominal pain, diarrhea, 
constipation, hematochezia. He does endorse recent history of 
unintentional weight lss (approximately 10 lbs since ___, and 
attributes it to decreased appetite; he also notes increased 
pruritis. He states he has orthostatic hypotension, and endorses 
loss of sensation in the lower extremities, bilaterally.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies sinus tenderness, rhinorrhea or congestion. Denied 
cough, shortness of breath. Denied chest pain or tightness, 
palpitations. Denied recent change in bowel or bladder habits. 
No dysuria. Denied arthralgias or myalgias.
 
Past Medical History:
- Chronic renal insufficiency secondary to diabetic 
nephrosclerosis.  
- Type 1 diabetes with nephropathy.  
- Orthostatic hypotension  
- Anemia  
- HTN 

 
Social History:
___
Family History:
No history of colon or prostate cancer. There is history of 
coronary disease.
 
Physical Exam:
Vitals: T 96.0, BP 186/82, HR 78, RR 18, O2sat 100%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, no thyromegaly, JVP not elevated, no LAD. Firm, 
ballottable mass, ~3cm in diameter, noted on the back of the 
neck, which appeared ___ years (per pt); pt states it is due to 
his diabetes.  
Lungs: Mild bibasilar rales; good air movement; no wheezes or 
ronchi; no accessory muscle use.
CV: Regular rate and rhythm, normal S1 + S2; ___ SEM; no rubs or 

gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no hepatosplenomegaly  
GU: Deferred
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild 
edema in LEs, extending to the knees.  
Neuro: CN II-XII intact; strength ___ in all extremities; 
sensation to light touch intact in UE's, decreased/absent in 
feet. Reflexes: 2+ and symmetric. Finger-to-nose, rapid 
alternating movements normal, no asterixis. Gait is steady, 
Romberg negative.
 
Pertinent Results:
___ 06:41AM BLOOD WBC-5.0 RBC-3.04* Hgb-8.9* Hct-26.2* 
MCV-86 MCH-29.3 MCHC-34.0 RDW-12.6 Plt ___
___ 06:41AM BLOOD Plt ___

___ 03:30PM BLOOD Glucose-333* UreaN-97* Creat-14.8*# 
Na-135 K-4.4 Cl-96 HCO3-24 AnGap-19 CALCIUM-8.6 PHOSPHATE-6.4*# 
MAGNESIUM-2.2

___ 07:00AM BLOOD Glucose-127* UreaN-69* Creat-11.6*# 
Na-135 K-4.1 Cl-96 HCO3-27 AnGap-16  Calcium-8.4 Phos-5.0* 
Mg-2.0

___ 06:41AM BLOOD Glucose-81 UreaN-44* Creat-9.4*# Na-137 
K-4.8 Cl-98 HCO3-29 AnGap-15 Calcium-8.5 Phos-5.2* Mg-2.0

Hepatitis serologies:
___ 03:30PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE
___ 03:30PM BLOOD HCV Ab-NEGATIVE

 
Brief Hospital Course:
ASSESSMENT AND PLAN: 
___ man with DM type 1 and end-stage renal disease presents for 
initiation of hemodialysis given worsening nausea, vomiting, 
pruritis x 10 days.
.
ACTIVE ISSUES:
#. End-stage renal disease: 
Recent symptoms were most likely due to increasing uremia in the 
setting of end-stage diabetic nephropathy. Infection was thought 
unlikely given this patient's lack of fevers, symptoms of upper 
respiratory infection (cough, dyspnea, pleuritic chest pain) or 
GI infection (diarrhea, hematochezia). On admission, patient's 
labs were notable for BUN 97, Cr 14.8, and phosphate 6.4; on 
discharge these improved to BUN 44, Cr 9.4, and phosphate 5.2; 
the patient noted a marked improvement in his symptoms and 
overall well-being.
.
Hepatitis serologies were negative for Hepatitis C (antibody) 
and Hepatitis B (hep B core Ab, surface Ab, surface Ag, Hep C 
Ab), indicating lack of Hep C infection and either 
non-vaccination for Hep B or loss of immunity. Patient was 
advised to check his vaccination status with his PCP with 
regards to his Hep B
.
PPD was placed on ___ and read as negative 48 hours later, 
on ___.
.
#. Hypertension: stable on home regimen of carvedilol and 
furosemide, with a baseline SBP of ~145 (per patient), up to 
200's at ___ immediately prior to dialysis sessions, gradually 
decreasing to baseline after conclusion of each session. This 
was most likely partially due to anxiety before dialysis (per 
pt. report), and is expected to improve as patient gets used to 
the procedure. 500cc of ultrafiltrate was withdrawn during the 
first 2 sessions. Patient's home regimen of furosemide 40mg was 
continued; his carvedilol dose was increased to 6.25mg BID, and 
Losartan, which had been previously stopped due to declining 
renal function, was re-started at 50mg qD per the recommendation 
of the Renal service.
.  
INACTIVE ISSUES
#. Anemia: likely due to chronic kidney disease; Fe deficiency 
and low ferritin stores noted during workup in ___. Now 
treated with Epoetin alfa; last dose received "several days 
before" admission (per patient). Blood clots in vomitus were 
felt most likely representative of ___ tears. Hct 
stable at ___: 26.2 on admission, 26.4 on discharge.
.
#. Diabetes: long-standing, type 1; HbA1c 8.0 ___ stable 
on home insulin regimen (lantus 31U qHS) with sliding scale 
based on carbohydrate counting by the patient.
.
#. Bone/mineral: labs on ___ show Ca 8.4, Mg 2, and 
Phosphate improving to 5.2 on discharge. Renal team stated that 
the patient's Phosphate levels should normalize with dialysis; 
meanwhile, Sevelamer was continued TID with meals.
.
TRANSITIONAL ISSUES
Discharge: Patient was advised to follow-up with his PCP, ___ 
___, MD; an appointment was scheduled for ___ at 1:40 ___.  In addition, he was placed in an outpatient 
___ facility, started thrice-weekly sessions on 
___ at 11:30 am. at the ___ ___, ___. It was 
felt, in discussions with the in-patient Renal Dialysis 
attending that the patient would be okay hemodynamically and 
electrolyte-wise to wait until that ___ for repeat 
hemodialysis after discharge post-hemodialysis on a ___ 
prior. 

 
Medications on Admission:
- Atorvastatin [Lipitor] 40 mg Tablet daily  
- Calcitrol 0.5 mcg daily  
- Epoetin alfa [Procrit] 20,000 unit/2 mL sc every two weeks 
- Furosemide [Lasix] 40 mg daily  
- Insulin glargine [Lantus] 100 unit/mL Solution 31 units qHS
- Aspirin 81 mg Tablet once a day  
- Carvedilol 3.125mg BID 
- Sevelamer 800mg tid  
 
Discharge Medications:
1. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. calcitriol 0.5 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. furosemide 40 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).  
4. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO QAM (once a day (in the morning)).  
5. sevelamer carbonate 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
6. losartan 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
8. insulin glargine 100 unit/mL Solution Sig: ___ (31) 
units Subcutaneous at bedtime.  
9. Humalog KwikPen 100 unit/mL Insulin Pen Sig: Per insulin 
sliding scale  Subcutaneous qACHS.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: End-stage renal disease, hemodialysis initiation
Secondary: Diabetes mellitus type 1, hypertension, anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ for initiation of hemodialysis 
for treatment of your nausea, vomiting, and other recent 
symptoms related to your chronic kidney disease. On admission, 
your vital signs were normal and stable, with the exception of 
very high blood pressure (213/109); your lab values on admission 
were notable for anemia and elevated blood urea nitrogen, 
creatinine, and phosphate, which are all signs of impaired 
kidney function.  Your hemodialysis sessions went well; we also 
re-started you on a blood pressure medication Losartan and 
increased your Carvedilol. Your blood pressure slowly normalized 
to your normal value (systolic blood pressure 145).
.
You had a PPD placed, which is a test to screen for 
tuberculosis. This is done for all patients who start 
hemodialysis at facilities where there are many other end-stage 
renal disease patients. This was negative for tuberculosis. You 
also had your hepatitis serologies checked and your Hepatitis B 
tests were all negative. This means you either have never been 
immunized or your immunity has worn off. Please discuss with Dr. 
___ the ___ B vaccine series or getting a Hep B 
booster. 

Please continue to take your medications according to the 
instruction given to you by your prescribing physicians. 
 
Followup Instructions:
___